data/pmechdb/original/mc_train_fold0/raw/train.txt
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)OC2=CC(=CC=C2)C[OH:10].C(CC(=C(F)F)F)CC(=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]CC4=CC=CC(=C4)OC5=CC=CC=C5.C(CC(=C(F)F)F)CC(=O)[O-] 10=20,
CC1CCC(CC(=C1)[O+]([Si-:10](C)(C)(C)[I:11])[Zn]I)I>>CC1CCC(CC(=C1)[O+]([Si:10](C)(C)C)[Zn]I)I.[I-:11] 10,11=11
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C(F)(F)F)Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=C(C=C2)C(F)(F)F)[C:21](=[CH:22]1)Br 10=20;20,21=21,22
COC1=C(C=CC(=C1)CC2C(C[O:21][C:20]2([O-:10])O[Na])C(C3=CC(=C(C=C3)O)OC)O)O.[OH2+][Na]>>COC1=C(C=CC(=C1)CC(C(C[O-:21])C(C2=CC(=C(C=C2)O)OC)O)[C:20](=[O:10])O[Na])O.[OH2+][Na] 10=20;20,21=21
CNC=[N+:11](C)[Si-:10](C)(C)(C)Cl>>CNC=[N:11]C.C[Si:10](C)(C)Cl 10,11=11
[H:20][N+:21]1(CCCC1)C2(CCC3C(C2)CCCC3=C)O.C1CC[NH:10]C1>>[H:20][NH+:10]1CCCC1.C=C1CCCC2C1CCC(C2)([N:21]3CCCC3)O 10=20;20,21=21
C1C[C:20](CC2C1CCN2CCS(=O)C3=CC=CC=C3)([NH:10]NC4=CC=CC=C4)[OH2+:21].CC(=O)[O-]>>C1C[C:20](=[NH+:10]NC2=CC=CC=C2)CC3C1CCN3CCS(=O)C4=CC=CC=C4.[OH2:21].CC(=O)[O-] 10=20;20,21=21
C[C+]=C[Si:20](C)(C)C.C[O:10][Zn-]>>C[C+]=C[Si-:20](C)(C)(C)[O+:10](C)[Zn-] 10=20,
CCO[C:11](=[C:10](C#N)[CH:20]1C2=C(C=CC(=C2)Cl)N([S:21]1)C)[O-:12].C1=CC=[NH+]C=C1>>CCO[C:11](=[O:12])[C:10](=[CH:20]C1=C(C=CC(=C1)Cl)N(C)[S-:21])C#N.C1=CC=[NH+]C=C1 10,11=10,20;20,21=21;12=11
[H:20][F:21].[CH:10]#[C:11]C1=CC=CC=C1>>[H:20][CH:10]=[C+:11]C1=CC=CC=C1.[F-:21] 10,11=10,20;20,21=21
[H:20][O+:21](C1CCCC2C1(C3C2(CCCC3)OC(=O)C)O)S(=O)(C)([O-])Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC(=O)OC12CCCCC1C3(C2CCCC3[O:21]S(=O)(C)([O-])Cl)O 10=20;20,21=21
CC(C)N(CC1=CC=CC=C1)C(=O)C([C:20](=[O:21])C)[NH:12][C:11]2=[CH:10]CC3(C4CC5=C(C3(C2)CCN4C)C=CC=C5)O.CC(=O)O.O>>CC(C)N(CC1=CC=CC=C1)C(=O)C2[C:20]([CH:10]3CC4(C5CC6=C(C4(CCN5C)C[C:11]3=[NH+:12]2)C=CC=C6)O)(C)[O-:21].CC(=O)O.O 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(C1=CC=CC=C1)C(C)N(C)C(=O)CC.[Li][N:10](C(C)C)C(C)C>>[H:20][N+:10]([Li])(C(C)C)C(C)C.CCC(=O)N(C)C(C)C(C1=CC=CC=C1)[O-:21] 10=20;20,21=21
[H:20][N:21](N=CC1=CN(C2=CC=CC=C21)S(=O)(=O)C3=CC=C(C=C3)C)S(=O)(=O)C4=CC=C(C=C4)C.[Li][O:10]C(C)(C)C>>[H:20][O+:10]([Li])C(C)(C)C.CC1=CC=C(C=C1)S(=O)(=O)[N-:21]N=CC2=CN(C3=CC=CC=C32)S(=O)(=O)C4=CC=C(C=C4)C 10=20;20,21=21
C[C:11](=[CH:10]CCCC[CH2:20][Br:21])[O-:12]>>C[C:11](=[O:12])[CH:10]1CCCC[CH2:20]1.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CCN(CC)[C:11](=[CH:10]CC#N)[O-:12]>>[H:20][CH:10](CC#N)[C:11](=[O:12])N(CC)CC.[OH2:21] 10,11=10,20;20,21=21;12=11
CC(C)CC(C(=O)NCC(=O)O)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C)CC(C(=O)NCC(=O)O)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[OH2:10].Cl[Ti:20](Cl)(Cl)Cl.CCC=O>>[OH2+:10][Ti-:20](Cl)(Cl)(Cl)Cl.CCC=O 10=20,
[H:20][O:21]P(=O)(O)O.CC(CC(C)O)[OH:10]>>[H:20][OH+:10]C(C)CC(C)O.OP(=O)(O)[O-:21] 10=20;20,21=21
CCC1C=CC=CC(C(O1)CC=CC#C[Si](C(C)C)(C(C)C)C(C)C)O[Si:20](C)(C)C(C)(C)C.[F-:10].CCCC[N+](CCCC)(CCCC)CCCC>>CCC1C=CC=CC(C(O1)CC=CC#C[Si](C(C)C)(C(C)C)C(C)C)O[Si-:20](C)(C)(C(C)(C)C)[F:10].CCCC[N+](CCCC)(CCCC)CCCC 10=20,
COC1=C2C3=C(CC4C5(C3(CCN4)C(O2)[C:20](=[O:21])CC5)O)C=C1.N[NH2:10].C(COCCO)O.O>>COC1=C2C3=C(CC4C5(C3(CCN4)C(O2)[C:20](CC5)([NH2+:10]N)[O-:21])O)C=C1.C(COCCO)O.O 10=20;20,21=21
C[C+:20]=O.CO[C:13]1=[C:12]([CH:11]=[CH:10]C=C1)Br>>C[C:20](=O)[CH:10]1C=C[C+:13]([C:12](=[CH:11]1)Br)OC 10,11=10,20;12,13=11,12
[H:20][OH2+:21].CCC(C)CC(C)[O-:10]>>[H:20][O:10]C(C)CC(C)CC.[OH2:21] 10=20;20,21=21
CO[C:11]1=[CH:10]C=C(C=C1Br)Br.[Br:20][Br:21]>>CO[C+:11]1[CH:10](C=C(C=C1Br)Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
[Li+:20].CCCC[O-:10].[Li]OC(CC(C)C)(C1=CC=CC=C1)C2=CC=CC=C2.O>>[Li:20][O:10]CCCC.[Li]OC(CC(C)C)(C1=CC=CC=C1)C2=CC=CC=C2.O 10=20,
CCC(CC)[O-:10].[O:21]=[P:20](Cl)(Cl)Cl>>CCC(CC)[O:10][P:20]([O-:21])(Cl)(Cl)Cl 10=20;20,21=21
[B:20]1(OC(C(O1)(C)C)(C)C)OC(C2=CC=CC=C2)C(C)C=C.C(CO)N(CCO)CC[OH:10]>>[B-:20]1(OC(C(O1)(C)C)(C)C)([OH+:10]CCN(CCO)CCO)OC(C2=CC=CC=C2)C(C)C=C 10=20,
CCOC(=O)C1=C([O:10][C:20](C1)(C)[OH2+:21])C(F)(F)F.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCOC(=O)C1=C([O+:10]=[C:20](C1)C)C(F)(F)F.[OH2:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
C[CH:10]=[C:11](C)[O-:12].[Br:20][Br:21]>>C[CH:10]([C:11](=[O:12])C)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.C[C:10]1=[C:11](C=CO1)[OH:12]>>[H:20][C:10]1([C:11](=[OH+:12])C=CO1)C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
CO[C:11]1=[CH:10]C=CC(=C1)[N+](=O)[O-].[Br:20][Br:21]>>CO[C+:11]1C=C(C=C[CH:10]1[Br:20])[N+](=O)[O-].[Br-:21] 10,11=10,20;20,21=21
C[O:21][C:20]1(C2=C(C=CC=C2)C(O1)C3=CC=CC=C3)[O-:10].C1CCOC1.C1=CC=C(C=C1)[Mg]Br.[Mg+]Br>>C[O-:21].C1=CC=C(C=C1)C2C3=C(C=CC=C3)[C:20](=[O:10])O2.C1CCOC1.C1=CC=C(C=C1)[Mg]Br.[Mg+]Br 10=20;20,21=21
CC(=[O:10])C.Cl[Ti:20](Cl)(Cl)Cl>>CC(=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl)C 10=20,
CC(=O)[O:21][C:20](C)([N+]1=CC=CC=C1)[O-:10]>>C[C:20](=[O:10])[N+]1=CC=CC=C1.CC(=O)[O-:21] 10=20;20,21=21
